;Spice netlist for an inverter and a capacitor
simulator lang=spectre

include "~/cadence/cellcharacs/model18.spi"
include "~/cadence/cellcharacs/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8

acinput (IV_in 0) vsource dc=0 mag=1

R1 (IV_in IV_in1) resistor r=0

X1 (IV_in1 vdd IV_out vdd gnd) XOR2 wp=2u lp=0.2u wn=0.5u ln=0.2u 

Freq ac start=1e+1 stop=1e+9
save R1:currents

